US07279467B2
2-methyl-5-{[2-(4-morpholinyl)ethyl]amino}-1,3-benzothiazole-4,7-dione
51.2 μl (0.39 mmol; 3 equivalents) of 4-(2-aminoethyl)morpholine is added to 27 mg (0.129 mmol) of 5-methoxy-2-methyl-4,7-dioxobenzothiazole in solution in 2 ml of anhydrous ethanol. The reaction mixture is stirred under reflux for 18 hours then the solvent is evaporated off under reduced pressure. The residue is purified on a silica column (eluent: 5% methanol in dichloromethane). The expected compound is obtained in the form of a red powder.

reactant | 4-(2-aminoethyl)morpholine | 0.39 mmol, 51.2 μl, 3 equivalents | NCCN1CCOCC1 | C6H14N2O
reactant | 5-methoxy-2-methyl-4,7-dioxobenzothiazole | 0.129 mmol, 27 mg | COC1=CC(C2=C(N=C(S2)C)C1=O)=O | C9H7NO3S
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-methyl-5-{[2-(4-morpholinyl)ethyl]amino}-1,3-benzothiazole-4,7-dione | CC=1SC2=C(N1)C(C(=CC2=O)NCCN2CCOCC2)=O | C14H17N3O3S
